US06770637B2
d) 6-Chloro-4-(2-chloro-phenyl)-nicotinic acid ethyl ester
To a solution of 2.00 g (6.60 mmol) 5-bromo-2-chloro-4-(2-chloro-phenyl)-pyridine in 66 ml tetrahydrofuran 4.3 ml of a solution of n-butyllithium in hexanes (1.6 M, 6.9 mmol) were added dropwise at −100° C. under argon. Thin layer chromatography showed complete bromine-lithium exchange after 5 min. After addition of 0.71 ml (7.3 mmol) ethyl chloroformate the reaction mixture was allowed to slowly warm to −78° C. and stirred at that temperature for 1 h. The reaction mixture was allowed to warm to room temperature over night. Quenching with a small amount of water was followed by dilution with tert-butyl methyl ether and washing with water and brine. The organic layer was dried with sodium sulfate and concentrated. Column chromatography afforded 1.66 g (85%) of the title compound as a light yellow solid.

reactant | 5-bromo-2-chloro-4-(2-chloro-phenyl)-pyridine | 6.60 mmol, 2.00 g | BrC=1C(=CC(=NC1)Cl)C1=C(C=CC=C1)Cl | C11H6BrCl2N
reactant | n-butyllithium | C(CCC)[Li]
reactant | bromine lithium | BrBr.[Li]
reactant | ethyl chloroformate | 7.3 mmol, 0.71 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
product | 6-Chloro-4-(2-chloro-phenyl)-nicotinic acid ethyl ester | 1.66 g, 85% | C(C)OC(C1=CN=C(C=C1C1=C(C=CC=C1)Cl)Cl)=O | C14H11Cl2NO2
